US06900243B2
a) [3-(5-Chloro-2-cyanophenoxy)-5-methylhexyl]methylcarbamic Acid 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 2 step (b) but using 4-chloro-2-hydroxybenzonitrile and (3-hydroxy-5-methylhexyl)methylcarbamic acid, 1,1-dimethylethyl ester.

reactant | 4-chloro-2-hydroxybenzonitrile | ClC1=CC(=C(C#N)C=C1)O | C7H4ClNO
reactant | (3-hydroxy-5-methylhexyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CC(C)C | C13H27NO3
product | [3-(5-Chloro-2-cyanophenoxy)-5-methylhexyl]methylcarbamic Acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CCC(CC(C)C)OC1=C(C=CC(=C1)Cl)C#N)=O | C20H29ClN2O3
